US07132425B2
A solution of 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid tert-butyl ester (3.29 g, 6.48 mmol) in methylene chloride (30 mL) was treated with trifluoroacetic acid (60 mL) and stirred at 25° C. for 65 min. The reaction solution was then concentrated in vacuo The resulting oil was diluted with ethyl acetate (500 mL), washed with water (2×250 mL) and a saturated aqueous sodium chloride solution (5×250 mL), dried over sodium sulfate, treated with decolorizing carbon, filtered through a pad of celite, and concentrated in vacuo to afford the 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid (2.89 g, 99%) as a light yellow foam: mp 121–127° C.; (ES)+-HRMS m/e calcd for C20H22ClN3O5S (M+H)+ 452.1042, found 452.1046. This material was used without further purification.

reactant | 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid tert-butyl ester | 6.48 mmol, 3.29 g | C(C)(C)(C)OC(=O)C1=NC=C(N=C1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C24H30ClN3O5S
reactant | trifluoroacetic acid | 60 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 5-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionylamino]-pyrazine-2-carboxylic acid | 2.89 g, 99% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC=1N=CC(=NC1)C(=O)O)CC1CCCC1 | C20H22ClN3O5S
